US05723075
1,5-di(benzylthiocarbamoylamino)naphthalene
1,5-Naphthalenediamine (0.791 g, 5 mM) was dissolved in 20 ml of ethyl acetate, and 2 equivalents of benzylisothiocyanate (1.492 g, 10 mM) were added. The mixture was stirred at 80° C. for 30 minutes. After cooling, the reaction mixture was filtered, and washed with ethylacetate/n-hexane to obtain 0.70 g (30.7% yield) of a colorless crystal of compound A-29.

reactant | 1,5-Naphthalenediamine | 5 mM, 0.791 g | C1(=CC=CC=2C(=CC=CC12)N)N | C10H10N2
reactant | benzylisothiocyanate | 10 mM, 1.492 g, 2 equivalents | C(C1=CC=CC=C1)N=C=S | C8H7NS
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1,5-di(benzylthiocarbamoylamino)naphthalene | 0.70 g, 30.7% yield | C(C1=CC=CC=C1)NC(=S)NC1=CC=CC2=C(C=CC=C12)NC(NCC1=CC=CC=C1)=S | C26H24N4S2
